US04254024
Boc-Tyr-DAla-Phe-Met-NHCH2CH2OH (2.0 g) was treated with HCl, anisole, EtOAc as in Step B to give H-Tyr-DAla-Phe-Met-NHCH2CH2OH.HCl which was chromatographed on Amberlite XAD-2 as in Step E to give 1.23 g (64%) of H-Tyr-DAla-Phe-Met-NHCH2CH2OH.HOAc, m.p. 200°-203° C., [α]D26 =10.21° (c, 1.01 in methanol).

reactant | Boc-Tyr-DAla-Phe-Met-NHCH2CH2OH | 2.0 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCSC)C(=O)NCCO)C(=O)OC(C)(C)C | C33H47N5O8S
reactant | HCl | Cl | ClH
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | H-Tyr-DAla-Phe-Met-NHCH2CH2OH.HCl | N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCSC)C(=O)NCCO.Cl | InChI=1S/C28H39N5O6S.ClH/c1-18(31-26(37)22(29)16-20-8-10-21(35)11-9-20)25(36)33-24(17-19-6-4-3-5-7-19)28(39)32-23(12-15-40-2)27(38)30-13-14-34;/h3-11,18,22-24,34-35H,12-17,29H2,1-2H3,(H,30,38)(H,31,37)(H,32,39)(H,33,36);1H/t18-,22+,23+,24+;/m1./s1
